US07872014B2
A solution of methyl 2,3-dihydroxybenzoate (27 g, 160 mmol) in dichloromethane (300 mL) was cooled to 0° C. and powdered potassium carbonate (23.3 g, 169 mmol) was added. The reaction mixture was then added benzoyl chloride (19.6 mL, 169 mmol) and the mixture was allowed to warm to room temperature and stirred for 18 h. The reaction mixture was concentrated in vacuo and the residue was partitioned with ethyl acetate and 0.3M aqueous hydrochloric acid. The organic layer was washed with brine, dried over anhydrous magnesium sulfate. Filtration and concentration afforded 42.1 g (97%) of crude methyl 2-hydroxy-3-[(phenylcarbonyl)oxy]benzoate as an orange oil: 1H NMR (400 MHz, d4-MeOH): 8.17 (dd, J=1.6, 12.5 Hz, 2H), 7.80 (dd, J=1.6, 8.0 Hz, 1H), 7.71-7.67 (m, 1H), 7.57-7.53 (m, 2H), 7.41 (dd, J=1.8, 8.0 Hz, 1H), 6.97 (t, J=8.6 Hz, 1H), 3.96 (s, 3H).

reactant | methyl 2,3-dihydroxybenzoate | 160 mmol, 27 g | OC1=C(C(=O)OC)C=CC=C1O | C8H8O4
reactant | potassium carbonate | 169 mmol, 23.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | 169 mmol, 19.6 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | methyl 2-hydroxy-3-[(phenylcarbonyl)oxy]benzoate | 42.1 g, 97% | OC1=C(C(=O)OC)C=CC=C1OC(=O)C1=CC=CC=C1 | C15H12O5
